US07312330B2
B. N-(4-tert-Butylphenyl)-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine hydrochloride
A mixture of N-(4-tert-butylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine 0.173 g, 0.61 mmol), 2,3-dichloropyridine (0.91 g, 0.61 mmol) and potassium carbonate (0.234 g, 1.84 mmol) in DMF was heated in a sealed tube in a microwave oven (Emrys Optimizer model, Personal Chemistry) at 200° C. for 2 h. The mixture was cooled to r.t. and diluted with water (30 mL). The mixture was extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with brine, dried over sodium sulfate and concentrated to leave an oil. The product was purified by silica gel chromatography (ethyl acetate/hexane gradient) to obtain 0.035 g of the title compound as a light yellow oil. The oil was dissolved in 1 mL ethyl acetate and treated with 1.0 M HCl in diethyl ether (0.09 mL). The resulting solid was collected by filtration, washed with diethyl ether and dried to give 0.030 g light yellow solid.

reactant | N-(4-tert-butylphenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.61 mmol, 0.173 g | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2 | C17H22N4
reactant | 2,3-dichloropyridine | 0.61 mmol, 0.91 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | potassium carbonate | 1.84 mmol, 0.234 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | N-(4-tert-Butylphenyl)-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine hydrochloride | 0.035 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2Cl | InChI=1S/C22H24ClN5.ClH/c1-22(2,3)15-6-8-16(9-7-15)27-20-17-10-12-28(13-19(17)25-14-26-20)21-18(23)5-4-11-24-21;/h4-9,11,14H,10,12-13H2,1-3H3,(H,25,26,27);1H
